US04402972
Using the procedure of Step A of Example 7, 3 g of tert.-butyl (1R,cis) 2,2-dimethyl-3-(2-carboxyethynyl)-cyclopropane-carboxylate and 2 ml of n-amyl alcohol were reacted and the residue was chromatographed over silica gel. Elution with an 8-2 hexane-isopropyl ether mixture yielded 2.7 g of tert.-butyl (1R,cis) 2,2-dimethyl-3-[pentyloxycarbonylethynyl]-cyclopropane-carboxylate.

reactant | tert.-butyl (1R,cis) 2,2-dimethyl-3-(2-carboxyethynyl)-cyclopropane-carboxylate | 3 g | CC1([C@@H]([C@@H]1C#CC(=O)O)C(=O)OC(C)(C)C)C | C13H18O4
reactant | n-amyl alcohol | 2 ml | CCCCCO | C5H12O
product | tert.-butyl (1R,cis) 2,2-dimethyl-3-[pentyloxycarbonylethynyl]-cyclopropane-carboxylate | 2.7 g | CC1([C@@H]([C@@H]1C#CC(=O)OCCCCC)C(=O)OC(C)(C)C)C | C18H28O4
